US07238808B2
5-[5-(3,4-Dichloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide
The title compound was prepared from 5-(3,4-dichloro-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine (example C.9) (89 mg, 0.25 mmol) and 5-bromo-thiophene-2-sulfonic acid amide (61 mg, 0.25 mmol) according to general procedure II. Obtained as a yellow solid (42 mg, 32%). MS (ISP) 517.0 [(M+H)+]; mp 231–232° C.

reactant | 5-(3,4-dichloro-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 89 mg | ClC=1C=C(C=CC1Cl)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#C | C15H6Cl2F3N3
reactant | 5-bromo-thiophene-2-sulfonic acid amide | 0.25 mmol, 61 mg | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
product | 5-[5-(3,4-Dichloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide | ClC=1C=C(C=CC1Cl)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#CC2=CC=C(S2)S(=O)(=O)N | C19H9Cl2F3N4O2S2
